US08217065B2
Bicyclo[2.2.1]hept-2-yl-{5-[2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine
Add di-imidazol-1-yl-methanethione (72 mg, 0.403 mmol) to a solution of bicyclo[2.2.1]hept-2-ylamine (48 uL, 0.403 mmol) in DMF (1 mL) and stir for 3 hr. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (100 mg, 0.310 mmol) and DMF (1 mL) to the reaction. Heat the mixture to 80° C. for 1.5 hr. Add EDCI (119 mg, 0.620 mmol) and heat for 1 hr. Allow the reaction to cool to room temp and dilute with water (15 mL). Collect the resulting precipitate by filtration. Suspend the solid in boiling ACN. Allow the suspension to cool to room temp and then 4° C. Filter to collect the white solid. Suspend the solid in 1 N NaOH (3 mL) and stir for 20 min. Filter and wash the solid with 1 N NaOH, water, and Et2O. Dry the solid in a vac oven to afford the title compound as a white solid: 1H NMR (400 MHz, MeOD) ppm 1.17-1.35 (m, 3 H) 1.42-1.49 (m, 1 H) 1.50-1.64 (m, 3 H) 1.87 (ddd, J=12.98, 8.05, 2.08 Hz, 1 H) 2.33 (br. s., 1 H) 2.40 (d, J=4.04 Hz, 1 H) 3.54 (dd, J=7.77, 2.84 Hz, 1 H) 7.55-7.63 (m, 3 H) 7.77 (d, J=8.34 Hz, 1 H) 7.92 (dd, J=8.53, 1.20 Hz, 1 H) 8.17 (s, 1 H); MS (m/z) 439.9 (M+1).

reactant | di-imidazol-1-yl-methanethione | 0.403 mmol, 72 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | bicyclo[2.2.1]hept-2-ylamine | 0.403 mmol, 48 uL | C12C(CC(CC1)C2)N | C7H13N
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.310 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.620 mmol, 119 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Bicyclo[2.2.1]hept-2-yl-{5-[2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-amine | C12C(CC(CC1)C2)NC=2OC(=NN2)C2=CC1=C(N=C(N1)C1=C(C=CC=C1Cl)Cl)C=C2 | C22H19Cl2N5O
